US09126993B2
quinuclidin-3-yl 3′-ethylbiphenyl-2-ylcarbamate
Using general procedure E, quinuclidin-3-yl 2-bromophenylcarbamate, 3-ethylphenylboronic acid and [PdCl2(pddf)]CH2Cl2 gave the title compound as a white solid (120 mg, 86%). 1H NMR (500 MHz, CDCl3) δ 8.09 (br s, 1H), 7.41 (t, J=7.5 Hz, 1H), 7.36 (t, J=7.5 Hz, 1H), 7.26-7.18 (m, 4H), 7.14 (t, J=7.5 Hz, 1H), 6.71 (br s, 1H), 4.79 (m, 1H), 3.25 (m, 1H), 2.90-2.65 (m, 7H), 2.05 (m, 1H), 1.80-1.64 (m, 2H), 1.62-1.52 (m, 1H), 1.40-1.32 (m, 1H), 1.28 (t, J=7.5 Hz, 3H) ppm. 13C NMR (125 MHz, CDCl3) δ 153.4, 145.2, 138.1, 134.7, 131.8, 130.2, 129.1, 128.8, 128.4, 127.5, 126.6, 123.5, 120.1, 72.0, 55.3, 47.3, 46.4, 28.9, 25.3, 24.5, 19.4, 15.7 ppm. Purity: >95% LCMS (214 nm & 254 nm); retention time 1.55 min; (M+1) 351.

reactant | quinuclidin-3-yl 2-bromophenylcarbamate | BrC1=C(C=CC=C1)NC(OC1CN2CCC1CC2)=O | C14H17BrN2O2
reactant | 3-ethylphenylboronic acid | C(C)C=1C=C(C=CC1)B(O)O | C8H11BO2
product | quinuclidin-3-yl 3′-ethylbiphenyl-2-ylcarbamate | 120 mg, 86% | C(C)C=1C=C(C=CC1)C1=C(C=CC=C1)NC(OC1CN2CCC1CC2)=O | C22H26N2O2
